US06765012B2
3-{[4-(3-Chloro-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
A solution of 3-[(4-hydroxy-phenylamino)-methylene]-1,3-dihydro-indol-2-one (0.945 g, 3.75 mmol) in 20 mL DMF is treated with potassium carbonate (777 mg, 1.5 equiv.) and 1-bromo-3-chloropropane (1.1 equiv.). The reaction mixture is heated to 40° C. for 3 h. The reaction mixture is partitioned between EtOAc and water. The organic layer is collected and washed sequentially with H2O (1×), saturated aqueous NaHCO3 solution (1×), and brine (1×). The organic phase was dried and concentrated to give an oil. The oil was purified by preparative chromatography (silica gel; 1:1 EtOAc:hexane) to give the named compound as a yellow solid (711 mg, 58%).

reactant | 3-[(4-hydroxy-phenylamino)-methylene]-1,3-dihydro-indol-2-one | 3.75 mmol, 0.945 g | OC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C15H12N2O2
reactant | potassium carbonate | 777 mg, 1.5 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 1.1 equiv. | BrCCCCl | C3H6BrCl
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-{[4-(3-Chloro-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 711 mg, 58% | ClCCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C18H17ClN2O2
